US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
The method of example 3.3 was used with 2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.96 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (1.06 mmol) to prepare the title compound. Chromatography on silica gel eluting sequentially with ethyl acetate, 6% methanol in dichloromethane, and then 10% methanol in dichloromethane gave the title compound:

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.96 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=CC(=C1)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 1.06 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=CC(=C1)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C33H37Cl2N3O4
